US04423047
2-Methylsulfinyl-5-chloropyrimidine
A solution of 2-methylthio-5-chloropyrimidine (13 mmol) in chloroform (85 ml) was cooled to -20° C. and m-chloroperbenzoic acid (17 mmol) added with stirring. The mixture was stirred for 40 min at -20° C. and for 4 h at 0° C. and left at this temperature overnight. The chloroform solution was then washed with 1 M potassium carbonate (3×10 ml) and the dried (MgSO4) solution evaporated. The residual oily material crystallized on standing; yield 80% m.p. 48° C. (n-heptane). 1H NMR (CDCl3): δ2.93 (Me), 8.83 (2H-4,6).

reactant | 2-methylthio-5-chloropyrimidine | 13 mmol | CSC1=NC=C(C=N1)Cl | C5H5ClN2S
reactant | m-chloroperbenzoic acid | 17 mmol | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 85 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-Methylsulfinyl-5-chloropyrimidine | yield 80% | CS(=O)C1=NC=C(C=N1)Cl | C5H5ClN2OS
